US08076488B2
Preparation of N-(2-pyrrolidin-1-ylethyl)4-[4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)-amino]carbonyl}amino)phenoxy]pyridine-2-carboxamide
The title compound was prepared in the same manner described for N-[3-(1H-imidazol-1-yl)propyl]-4-[4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]carbonyl}-amino)phenoxy]pyridine-2-carboxamide, substituting 1-(2-aminoethyl)pyrrolidone for 1-(3-aminopropyl)imidazole. 1H-NMR (MeOH-d4) δ 8.45 (d, 1H), 8.00 (d, 1H), 7.65 (dd, 1H), 7.56 (m, 3H), 7.22 (d, 1H), 7.10 (m, 2H), 7.04 (dd, 1H), 3.57 (t, 2H), 2.77 (t, 2H), 2.67 (m, 4H), 1.83 (m, 4H); MS LC-MS [M+H]+=576.2, RT=3.16 min.

reactant | N-[3-(1H-imidazol-1-yl)propyl]-4-[4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]carbonyl}-amino)phenoxy]pyridine-2-carboxamide | N1(C=NC=C1)CCCNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC2=C(OC(OC2(F)F)(F)F)C=C1 | C27H22F4N6O5
reactant | 1-(3-aminopropyl)imidazole | NCCCN1C=NC=C1 | C6H11N3
product | N-(2-pyrrolidin-1-ylethyl)4-[4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)-amino]carbonyl}amino)phenoxy]pyridine-2-carboxamide | N1(CCCC1)CCNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC2=C(OC(OC2(F)F)(F)F)C=C1 | C27H25F4N5O5
